US07868030B2
i) 2-Fluoro-5-(3-methyl-thiophen-2-yl)-pyridine
This compound was prepared in analogy to Example 52, starting from 2-bromo-3-methylthiophene (2.6 g, 15 mmol) and 2-fluoro-5-pyridine-boronic acid (2.3 g, 16.5 mmol, 1.1 equiv.) to obtain 2.2 g of the desired compound as a light yellow oil. MS (ES): m/e 194.2 (M+H)

reactant | 2-bromo-3-methylthiophene | 15 mmol, 2.6 g | BrC=1SC=CC1C | C5H5BrS
reactant | 2-fluoro-5-pyridine-boronic acid | 16.5 mmol, 2.3 g, 1.1 equiv. | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
product | 2-Fluoro-5-(3-methyl-thiophen-2-yl)-pyridine | 2.2 g | FC1=NC=C(C=C1)C=1SC=CC1C | C10H8FNS
